US08877774B2
Step 2. Benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-methoxybenzoate
To an ice-cooled solution of benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-hydroxybenzoate (1.94 g, 4.53 mmol) in dimethyl formamide (25 mL), was added potassium carbonate (0.93 g, 6.75 mmol) followed by iodomethane (0.42 mL, 6.75 mmol). The reaction mixture was allowed to warm to room temperature over 16 hours and stood at room temperature for 3 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extracts were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure to afford the title compound (1.76 g, 88%).

reactant | benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-hydroxybenzoate | 4.53 mmol, 1.94 g | O1C(OCC1)CCCCCCCCOC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)O | C25H32O6
reactant | potassium carbonate | 6.75 mmol, 0.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 6.75 mmol, 0.42 mL | IC | CH3I
solvent | dimethyl formamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-methoxybenzoate | 1.76 g, 88% | O1C(OCC1)CCCCCCCCOC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)OC | C26H34O6
